* # FILE NAME: /HOME/ECEGRID/A/559MG3/CADENCE/SIMULATION/                       
* FULL_ADDER_MIRROR_STATICCMOS/HSPICES/EXTRACTED/NETLIST/
* FULL_ADDER_MIRROR_STATICCMOS.C.RAW
* NETLIST OUTPUT FOR HSPICES.
* GENERATED ON NOV 25 23:37:17 2014
   
* FILE NAME: PROJ_LIB_FULL_ADDER_MIRROR_STATICCMOS_EXTRACTED.S.
* SUBCIRCUIT FOR CELL: FULL_ADDER_MIRROR_STATICCMOS.
* GENERATED FOR: HSPICES.
* GENERATED ON NOV 25 23:37:17 2014.
   
C20 GD 3  69.9273E-18 M=1.0 
C21 GD 2  139.8546E-18 M=1.0 
C22 GD A_IN  254.5668E-18 M=1.0 
C23 GD C_IN  209.7819E-18 M=1.0 
C24 VD 2  26.7138E-18 M=1.0 
C25 VD A_IN  81.7128E-18 M=1.0 
C26 VD C_IN  40.0707E-18 M=1.0 
C27 B_IN GD  282.852E-18 M=1.0 
C28 B_IN VD  53.4276E-18 M=1.0 
C29 GD 4  44.0136E-18 M=1.0 
C30 GD 3  189.5436E-18 M=1.0 
C31 GD 2  214.7382E-18 M=1.0 
C32 GD 1  44.0136E-18 M=1.0 
C33 GD C_IN  75.5838E-18 M=1.0 
C34 VD 3  30.4272E-18 M=1.0 
C35 VD 2  30.4272E-18 M=1.0 
C36 VD A_IN  72.396E-18 M=1.0 
C37 B_IN GD  72.396E-18 M=1.0 
C38 CARRY_OUT GD  164.349E-18 M=1.0 
C39 CARRY_OUT VD  30.4272E-18 M=1.0 
C40 SUM_OUT GD  164.349E-18 M=1.0 
C41 SUM_OUT VD  30.4272E-18 M=1.0 
C42 2 5  69.2001E-18 M=1.0 
C43 2 3  135E-18 M=1.0 
C44 1 2  69.2001E-18 M=1.0 
C45 A_IN 6  34.9776E-18 M=1.0 
C46 A_IN 5  69.9552E-18 M=1.0 
C47 A_IN 4  34.9776E-18 M=1.0 
C48 A_IN 3  100.0224E-18 M=1.0 
C49 A_IN 2  169.9776E-18 M=1.0 
C50 A_IN 1  69.9552E-18 M=1.0 
C51 C_IN 6  34.9776E-18 M=1.0 
C52 C_IN 5  34.9776E-18 M=1.0 
C53 C_IN 4  34.9776E-18 M=1.0 
C54 C_IN 3  100.0224E-18 M=1.0 
C55 C_IN 2  139.9104E-18 M=1.0 
C56 C_IN 1  34.9776E-18 M=1.0 
C57 C_IN A_IN  139.9104E-18 M=1.0 
C58 GD 4  65.9682E-18 M=1.0 
C59 GD 3  326.322E-18 M=1.0 
C60 GD 2  799.4889E-18 M=1.0 
C61 GD 1  66.4299E-18 M=1.0 
C62 GD C_IN  397.0251E-18 M=1.0 
C63 VD 6  65.9682E-18 M=1.0 
C64 VD 5  66.4299E-18 M=1.0 
C65 VD A_IN  689.1111E-18 M=1.0 
C66 B_IN 5  34.9776E-18 M=1.0 
C67 B_IN 3  100.0224E-18 M=1.0 
C68 B_IN 2  204.9552E-18 M=1.0 
C69 B_IN 1  34.9776E-18 M=1.0 
C70 B_IN A_IN  174.888E-18 M=1.0 
C71 B_IN C_IN  174.888E-18 M=1.0 
C72 B_IN GD  623.8467E-18 M=1.0 
C73 SUM_OUT 2  65.0448E-18 M=1.0 
M74 CARRY_OUT 2 VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=619.650001882494E-15 AS=364.499988352029E-15 PD=2.34000003729307E-6 
+PS=1.70999999227206E-6 M=1 
M75 SUM_OUT 3 VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=619.650001882494E-15 AS=218.700003853239E-15 PD=2.34000003729307E-6 
+PS=539.999973625527E-9 M=1 
M76 VD B_IN 6 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=218.700003853239E-15 PD=539.999973625527E-9 
+PS=539.999973625527E-9 M=1 
M77 6 A_IN VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=218.700003853239E-15 PD=539.999973625527E-9 
+PS=539.999973625527E-9 M=1 
M78 VD C_IN 6 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=364.499988352029E-15 PD=539.999973625527E-9 
+PS=899.999974990351E-9 M=1 
M79 6 2 3 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=364.499988352029E-15 AS=473.850017383703E-15 PD=899.999974990351E-9 
+PS=1.17000001864653E-6 M=1 
M80 3 C_IN 19 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=473.850017383703E-15 AS=200.474999014627E-15 PD=1.17000001864653E-6 
+PS=494.999994771206E-9 M=1 
M81 19 A_IN 18 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=200.474999014627E-15 AS=182.249994176015E-15 PD=494.999994771206E-9 
+PS=449.999987495175E-9 M=1 
M82 18 B_IN VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=182.249994176015E-15 AS=255.150013530464E-15 PD=449.999987495175E-9 
+PS=629.999988177588E-9 M=1 
M83 VD B_IN 5 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=255.150013530464E-15 AS=218.700003853239E-15 PD=629.999988177588E-9 
+PS=539.999973625527E-9 M=1 
M84 5 C_IN 2 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=473.850017383703E-15 PD=539.999973625527E-9 
+PS=1.17000001864653E-6 M=1 
M85 2 B_IN 17 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=473.850017383703E-15 AS=182.249994176015E-15 PD=1.17000001864653E-6 
+PS=449.999987495175E-9 M=1 
M86 17 A_IN VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=182.249994176015E-15 AS=255.150013530464E-15 PD=449.999987495175E-9 
+PS=629.999988177588E-9 M=1 
M87 VD A_IN 5 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=255.150013530464E-15 AS=400.949998029254E-15 PD=629.999988177588E-9 
+PS=1.7999999499807E-6 M=1 
M88 CARRY_OUT 2 GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=238.950000194457E-15 AS=153.900004719321E-15 PD=1.97999997908482E-6 
+PS=1.35000004775065E-6 M=1 
M89 SUM_OUT 3 GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=238.950000194457E-15 AS=89.0999988091383E-15 PD=1.97999997908482E-6 
+PS=629.999988177588E-9 M=1 
M90 GD B_IN 4 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=89.0999988091383E-15 AS=89.0999988091383E-15 PD=629.999988177588E-9 
+PS=629.999988177588E-9 M=1 
M91 4 A_IN GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=89.0999988091383E-15 AS=89.0999988091383E-15 PD=629.999988177588E-9 
+PS=629.999988177588E-9 M=1 
M92 GD C_IN 4 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=89.0999988091383E-15 AS=137.700004935841E-15 PD=629.999988177588E-9 
+PS=989.999989542412E-9 M=1 
M93 4 2 3 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=137.700004935841E-15 AS=174.150001060538E-15 PD=989.999989542412E-9 
+PS=1.25999997635518E-6 M=1 
M94 3 C_IN 16 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=174.150001060538E-15 AS=66.8249974127878E-15 PD=1.25999997635518E-6 
+PS=494.999994771206E-9 M=1 
M95 16 A_IN 15 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=66.8249974127878E-15 AS=60.7500025761806E-15 PD=494.999994771206E-9 
+PS=449.999987495175E-9 M=1 
M96 15 B_IN GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=60.7500025761806E-15 AS=101.25000203488E-15 PD=449.999987495175E-9 
+PS=720.000002729648E-9 M=1 
M97 GD B_IN 1 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=101.25000203488E-15 AS=89.0999988091383E-15 PD=720.000002729648E-9 
+PS=629.999988177588E-9 M=1 
M98 1 C_IN 2 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=89.0999988091383E-15 AS=174.150001060538E-15 PD=629.999988177588E-9 
+PS=1.25999997635518E-6 M=1 
M99 2 B_IN 7 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=174.150001060538E-15 AS=60.7500025761806E-15 PD=1.25999997635518E-6 
+PS=449.999987495175E-9 M=1 
M100 7 A_IN GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=60.7500025761806E-15 AS=101.25000203488E-15 PD=449.999987495175E-9 
+PS=720.000002729648E-9 M=1 
M101 GD A_IN 1 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=101.25000203488E-15 AS=166.049994392535E-15 PD=720.000002729648E-9 
+PS=1.4400000054593E-6 M=1 
   
   
   
   
   
.lib "$CDK_DIR/models/hspice/public/publicModel/tsmc18dP" PMOS 
.lib "$CDK_DIR/models/hspice/public/publicModel/tsmc18dN" NMOS 
   
   
* INCLUDE FILES
   
   
   
   
   
   
* END OF NETLIST
.TEMP    25.0000    
*.OP
*.save
*.OPTION  INGOLD=2 ARTIST=2 PSF=2
*+        PROBE=0
vGD GD 0 DC=0v
vVD VD 0 DC=2.5v
.END
