// Generated for: spectre
// Generated on: Oct 29 18:15:06 2014
// Design library name: hw1
// Design cell name: InverterFan4_180nm
// Design view name: schematic
simulator lang=spectre
global 0 vdd!

// Library name: hw1
// Cell name: Inverter_180nm
// View name: schematic
subckt Inverter_180nm In Out
    P0 (Out In vdd! vdd!) tsmc18dP w=810.0n l=180.0n as=3.645e-13 \
        ad=3.645e-13 ps=2.52u pd=2.52u m=1 region=sat
    N0 (Out In 0 0) tsmc18dN w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
ends Inverter_180nm
// End of subcircuit definition.

// Library name: hw1
// Cell name: InverterFan4_180nm
// View name: schematic
I4 (Out_inv Out\<3\>) Inverter_180nm
I3 (Out_inv Out\<2\>) Inverter_180nm
I2 (Out_inv Out\<1\>) Inverter_180nm
I1 (Out_inv Out\<0\>) Inverter_180nm
I0 (In Out_inv) Inverter_180nm
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub pwr=all currents=all
